US07226930B2
To a flask containing 337 mg (8.4 mmol) of NaH (60% in mineral oil), 1.7 mL (8.4 mmol) of 15-crown-5 and 42 mL of DMF was added 860 mg (4.2 mmol) of methyl 3-ethyl-1H-indazol-6-yl-carboxylate. This mixture was stirred at room temperature for 3 hours and then 1.35 mL (12.6 mmol) of cyclopentyl bromide was added and the reaction was stirred at room temperature overnight. The solvent was removed and the residue was dissolved in 40 mL ethyl acetate, washed with 30 mL of water and 30 mL of brine, dried (Na2SO4), and concentrated. The residue was purified by column chromatography over SiO2 using a step gradient of 10% ethyl acetate in hexanes until the first compound eluted and then 50% ethyl acetate in hexanes to provide 662 mg (2.4 mmol) of methyl 1-cyclopentyl-3-ethyl-1H-indazol-6-yl-carboxylate as a clear oil along with 144 mg (0.53 mmol) methyl 2-(cyclopentyl-3-ethyl)-2H-indazol-6-yl-carboxylate as a yellow oil. 1H-NMR (CDCl3) δ 8.17 (s, 1H), 7.71 (dd, J1=8.4 Hz, J2=6.7 Hz, 2H), 5.0 (p, J=7.5 Hz, 1H), 3.97 (s, 3H), 3.00 (q, J=7.5 Hz, 2H), 2.16 (m, 4H), 1.92 (m, 2H), 1.74 (m, 2H), 1.39 (t, J=7.6 Hz, 3H).

reactant | NaH | 8.4 mmol, 337 mg | [H-].[Na+]
reactant | 15-crown-5 | 8.4 mmol, 1.7 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | methyl 3-ethyl-1H-indazol-6-yl-carboxylate | 4.2 mmol, 860 mg | C(C)C1=NNC2=CC(=CC=C12)C(=O)OC | C11H12N2O2
reactant | cyclopentyl bromide | 12.6 mmol, 1.35 mL | C1(CCCC1)Br | C5H9Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 42 mL | CN(C)C=O | C3H7NO
product | methyl 1-cyclopentyl-3-ethyl-1H-indazol-6-yl-carboxylate | 2.4 mmol, 662 mg | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)OC)CC | C16H20N2O2
